US09290451B2
b) tert-Butyl 2-methyl-4-morpholino-4-oxobutan-2-ylcarbamate
3-(tert-Butoxycarbonylamino)-3-methylbutanoic acid (2.7 g, 12.4 mmol), HBTU (CAN 94790-37-1, 6.1 g, 16.1 mmol) and triethylamine (CAN 121-44-8, 2.5 g, 24.8 mmol) was added to a solution of morpholine (CAN 110-91-8, 2.2 g, 24.8 mmol) in methylene chloride (50 mL). The mixture was stirred overnight at room temperature. Aqueous hydrochloride (1 N, 50 mL) was added, and the mixture extracted with methylene chloride. The organic extracts were washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, concentrated, and purified by column chromatography (silica gel, 50 g, eluting with 30% ethyl acetate in petroleum ether) to give the product (2.1 g, 59%); MS (EI): m/e 287.1 [M+H]+.

reactant | 3-(tert-Butoxycarbonylamino)-3-methylbutanoic acid | 12.4 mmol, 2.7 g | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
reactant | HBTU | 16.1 mmol, 6.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 24.8 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | morpholine | 24.8 mmol, 2.2 g | N1CCOCC1 | C4H9NO
reactant | hydrochloride | 1 N, 50 mL | Cl | ClH
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-methyl-4-morpholino-4-oxobutan-2-ylcarbamate | 2.1 g, 59% | CC(C)(CC(=O)N1CCOCC1)NC(OC(C)(C)C)=O | C14H26N2O4
